US08912209B2
Intermediate 4: [2′-(1-tert-Butoxycarbonylamino-ethyl)-5′-(pyridin-4-ylcarbamoyl)-biphenyl-3-yl]-acetic acid
To a solution of {1-[2-bromo-4-(pyridine-4-ylcarbamoyl)-phenyl]ethyl}-carbamic acid tert-butyl ester (1951 μmol) in a mixture of DME/EtOH/2N Na2CO3: 1/1/1 (10 ml) were added 3-carboxymethylphenylboronic acid (1.5 eq) and Pd tetrakis (0.05 eq). The reaction mixture was heated in the microwave at 160° C. for 15 minutes. The reaction mixture was cooled to RT, filtered over celite and washed with EtOAc and MeOH. The solvents were removed under reduced pressure. The compound was purified by column chromatography (silicagel, DCM/MeOH gradient).

reactant | {1-[2-bromo-4-(pyridine-4-ylcarbamoyl)-phenyl]ethyl}-carbamic acid tert-butyl ester | 1951 μmol | C(C)(C)(C)OC(NC(C)C1=C(C=C(C=C1)C(NC1=CC=NC=C1)=O)Br)=O | C19H22BrN3O3
reactant | 3-carboxymethylphenylboronic acid | 1.5 eq | C(=O)(O)CC=1C=C(C=CC1)B(O)O | C8H9BO4
solvent | DME EtOH | 2N | COCCOC.CCO
catalyst | Pd tetrakis | 0.05 eq | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | [2′-(1-tert-Butoxycarbonylamino-ethyl)-5′-(pyridin-4-ylcarbamoyl)-biphenyl-3-yl]-acetic acid | C(C)(C)(C)OC(=O)NC(C)C1=C(C=C(C=C1)C(NC1=CC=NC=C1)=O)C1=CC(=CC=C1)CC(=O)O | C27H29N3O5
